US04937373
A mixture of 3.25 g (7.17 mmol) of 1-(6-bromohexyl)-2,3-bis-(phenylmethoxy)benzene, 1.50 g (6.5 mmol) of (S)-alpha-methyl-6-hydroxy-2-naphthaleneacetic acid methyl ester, 1.08 g (7.17 mmol) of sodium iodide and 2.70 g (19.6 mmol) of potassium carbonate in 60 mL of acetone - 6 mL of dimethylformamide was stirred at reflux for 48 hours. The reaction mixture was filtered and the filtrate was concentrated at reduced pressure. The residue was purified by HPLC using 20% ethyl acetate-hexane to give 3.24 g (75% yield) of (S)-alpha-methyl-6-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]-2-naphthaleneacetic acid methyl ester as an oil. The nmr and mass spectra were consistent with the structure.

reactant | 1-(6-bromohexyl)-2,3-bis-(phenylmethoxy)benzene | 7.17 mmol, 3.25 g | BrCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C26H29BrO2
reactant | (S)-alpha-methyl-6-hydroxy-2-naphthaleneacetic acid methyl ester | 6.5 mmol, 1.50 g | COC([C@H](C1=CC2=CC=C(C=C2C=C1)O)C)=O | C14H14O3
reactant | sodium iodide | 7.17 mmol, 1.08 g | [I-].[Na+]
reactant | potassium carbonate | 19.6 mmol, 2.70 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 60 mL | CC(=O)C | C3H6O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (S)-alpha-methyl-6-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]-2-naphthaleneacetic acid methyl ester | 3.24 g, 75% yield | COC([C@H](C1=CC2=CC=C(C=C2C=C1)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)=O | C40H42O5
